US08258138B2
i) 4-Benzylamino-benzoic acid
To a stirred solution of 4-aminobenzoic acid (10 g, 73 mmol) in tetrahydrofuran (200 ml) was added benzaldehyde (9.63 ml, 95 mmol), acetic acid (4.9 ml, 91.3 mmol) followed by sodium triacetoxyborohydride (31 g, 146 mmol) and the reaction was stirred at room temperature for 16 hours. The reaction mixture was diluted with water (200 ml) and extracted with dichloromethane (2×200 ml). The organics were combined, washed with brine, dried over magnesium sulfate and then concentrated in vacuo. The residue was purified by flash chromatography (SiO2) eluting with diethylether/dichloromethane (1:4) to afford the title compound as an off white solid (4.74 g, 28% yield). HPLC retention time 5.32 min. Mass spectrum (ES+) m/z 228 (M+H).

reactant | 4-aminobenzoic acid | 73 mmol, 10 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | benzaldehyde | 95 mmol, 9.63 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 91.3 mmol, 4.9 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 146 mmol, 31 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 4-Benzylamino-benzoic acid | C(C1=CC=CC=C1)NC1=CC=C(C(=O)O)C=C1 | C14H13NO2
